US06093732
To a flask containing diethyl 2-[(4-{[2-(acetyloxy)ethyl]amino}anilino)-methylene]-malonate (0.18 g) is added diphenyl ether (2 mL). The reaction mixture is heated from room temperature to 250° C. over 30 minutes under a flow of argon gas. The reaction is cooled to room temperature and filtered. The collected precipitate is washed repeatedly with methanol:dichloromethane and the filtrate is concentrated under reduced pressure. The residue is adsorbed onto silica and chromatographed on silica eluting with 5% to 50% methanol in dichloromethane. The product-containing fractions are evaporated to give 0.04 g of ethyl 6-{[2-(acetyloxy)ethyl]amino}-4-hydroxy-3-quinolinecarboxylate.

reactant | diethyl 2-[(4-{[2-(acetyloxy)ethyl]amino}anilino)-methylene]-malonate | 0.18 g | C(C)(=O)OCCNC1=CC=C(NC=C(C(=O)OCC)C(=O)OCC)C=C1 | C18H24N2O6
reactant | diphenyl ether | 2 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 6-{[2-(acetyloxy)ethyl]amino}-4-hydroxy-3-quinolinecarboxylate | 0.04 g | C(C)(=O)OCCNC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)O | C16H18N2O5
